US04016281
1.95 g. of 2-chloromethyl-1-tetralone, prepared by reaction of phosphorus trichloride and 2-hydroxymethyl-1-tetralone, 3.54 g. of 4-phenylpiperidin-1-ol and 1 g. of potassium carbonate in 20 ml. of isopropanol are heated under reflux for 3 hours. The mixture is evaporated and worked up with water and ether to give 2-(4-phenyl-4-hydroxypiperidinomethyl)-1-tetralone. Hydrochloride, M.P. 164°-167°.

reactant | 2-chloromethyl-1-tetralone | ClCC1C(C2=CC=CC=C2CC1)=O | C11H11ClO
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | 2-hydroxymethyl-1-tetralone | OCC1C(C2=CC=CC=C2CC1)=O | C11H12O2
reactant | 4-phenylpiperidin-1-ol | C1(=CC=CC=C1)C1CCN(CC1)O | C11H15NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-1-tetralone. Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=CC=C2CC1)=O)O | InChI=1S/C22H25NO2.ClH/c24-21-18(11-10-17-6-4-5-9-20(17)21)16-23-14-12-22(25,13-15-23)19-7-2-1-3-8-19;/h1-9,18,25H,10-16H2;1H
